US05030629
Preparation of 1-Isopropyl-2-undecyl-2-imidazoline
18.324 g of Undecyl cyanide, 15.12 g of N-isopropylethylenediamine and 0.5 ml of carbon disulfide were heated at 125° C. for 24 hrs. and worked up as mentioned under Example 23, followed by distillation at 150° C./1.2 mm gave 21.93 g (82.3%) of the product.

reactant | Undecyl cyanide | 18.324 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | N-isopropylethylenediamine | 15.12 g | C(C)(C)NCCN | C5H14N2
solvent | carbon disulfide | 0.5 ml | C(=S)=S | CS2
product | 1-Isopropyl-2-undecyl-2-imidazoline | 21.93 g, 82.3% | C(C)(C)N1C(=NCC1)CCCCCCCCCCC | C17H34N2
